US03948914
5.4 g (0.02 mol) of 4-ethylamino-6-chloro-5-nitro-2-trifluoromethyl-pyrimidine are dissolved in 100 ml of abs. ethanol. The solution is treated with 2.3 g of triethylamine (0.023 mol) and 1.7 g (0.023 mol) of 2-amino-butane and the mixture is stirred overnight. After the mixture has been evaporated, the product is taken up in water and extracted with ether to yield 4.5 g of 4-ethylamino-5-nitro-6-(2-butylamino)-2-trifluoromethyl-pyrimidine; nD20 = 1.5209.

reactant | 4-ethylamino-6-chloro-5-nitro-2-trifluoromethyl-pyrimidine | 0.02 mol, 5.4 g | C(C)NC1=NC(=NC(=C1[N+](=O)[O-])Cl)C(F)(F)F | C7H6ClF3N4O2
reactant | triethylamine | 0.023 mol, 2.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-butane | 0.023 mol, 1.7 g | NC(C)CC | C4H11N
solvent | ethanol | C(C)O | C2H6O
product | 4-ethylamino-5-nitro-6-(2-butylamino)-2-trifluoromethyl-pyrimidine | 4.5 g | C(C)NC1=NC(=NC(=C1[N+](=O)[O-])NC(C)CC)C(F)(F)F | C11H16F3N5O2
